US07432258B2
c) 2-Amino-5-methyl-4-(methyloxy)phenol
5-Methyl-4-(methyloxy)-2-nitrophenol (3.65 g, 20 mmol) was dissolved in EtOAc (100 mL) and 200 mg of 5% Pd/C was added. The reaction vessel was evacuated and filled with N2. This process was repeated twice then filled with H2 at 1 atm, and stirred for 16 h. The mixture was filtered through a pad of celite, washed with EtOAc, and the solvent was removed via rotovap to give the title compound (3.0 g, 98%) as a white solid. MS (ES) m/e 154 [M+H]+.

reactant | 5-Methyl-4-(methyloxy)-2-nitrophenol | 20 mmol, 3.65 g | CC=1C(=CC(=C(C1)O)[N+](=O)[O-])OC | C8H9NO4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-Amino-5-methyl-4-(methyloxy)phenol | 3.0 g, 98% | NC1=C(C=C(C(=C1)OC)C)O | C8H11NO2
